US09227951B2
Step 3: methyl 5-(1-aminoethyl)thiophene-2-carboxylate hydrochloride
To a degassed solution of methyl 5-[(1E)-N-hydroxyethanimidoyl]thiophene-2-carboxylate (3.43 mg, 17.2 mmol) and hydrochloric acid (12.0 M, 1.8 mL, 22.4 mmol) in methanol (100 mL) was added Pearlman's catalyst (84.6 mg, 0.2 mmol). The resulting reaction mixture was shaken under a 60 psi atmosphere of H2 for 4 days. The catalyst was removed by filtration through celite and the solvent was removed to afford a white solid (3.55 g, 93%). LC-MS: (FA) ES+ 186)

reactant | methyl 5-[(1E)-N-hydroxyethanimidoyl]thiophene-2-carboxylate | 17.2 mmol, 3.43 mg | O/N=C(\C)/C1=CC=C(S1)C(=O)OC | C8H9NO3S
reactant | hydrochloric acid | 22.4 mmol, 12.0 M, 1.8 mL | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pearlman's catalyst | 0.2 mmol, 84.6 mg | [OH-].[OH-].[Pd+2]
product | methyl 5-(1-aminoethyl)thiophene-2-carboxylate hydrochloride | 3.55 g, 93% | Cl.NC(C)C1=CC=C(S1)C(=O)OC | InChI=1S/C8H11NO2S.ClH/c1-5(9)6-3-4-7(12-6)8(10)11-2;/h3-5H,9H2,1-2H3;1H
